US07253196B2
2-Anilino-5-isopropyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-phenylthiourea and ethyl 2-bromo-3-methylbutanoate according to Method C.

reactant | N-phenylthiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | ethyl 2-bromo-3-methylbutanoate | BrC(C(=O)OCC)C(C)C | C7H13BrO2
product | 2-Anilino-5-isopropyl-1,3-thiazol-4(5H)-one | N(C1=CC=CC=C1)C=1SC(C(N1)=O)C(C)C | C12H14N2OS
